US05650092
Preparation of (3,5-difluoro-4-difluoromethoxyphenyl) trans-4-n-heptyl-4-silacyclohexanecarboxylate
The general procedure of Example 3 was repeated using 3,5-difluoro-4-difluoromethoxyphenol and 4-n-heptyl-4-phenyl-4-silacyclohexanecarboxylic acid, thereby obtaining the intended product.

reactant | 3,5-difluoro-4-difluoromethoxyphenol | FC=1C=C(C=C(C1OC(F)F)F)O | C7H4F4O2
reactant | 4-n-heptyl-4-phenyl-4-silacyclohexanecarboxylic acid | C(CCCCCC)[Si]1(CCC(CC1)C(=O)O)C1=CC=CC=C1 | C19H30O2Si
product | (3,5-difluoro-4-difluoromethoxyphenyl) trans-4-n-heptyl-4-silacyclohexanecarboxylate | C(CCCCCC)[Si@@H]1CC[C@H](CC1)C(=O)OC1=CC(=C(C(=C1)F)OC(F)F)F | C20H28F4O3Si
